US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine-2-carboxylic acid
In tetrahydrofuran (10 ml), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(ethoxycarbonyl)-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine (2.08 g) was dissolved, followed by the addition of ethanol (20 ml) and a 1N aqueous solution (3.70 ml) of sodium hydroxide. The resulting mixture was stirred at room temperature for 1 hour. After concentration of the reaction mixture under reduced pressure, the residue was added with water (20 ml). The precipitate thus formed was collected by filtration, whereby the title compound (1.39 g) was obtained as a pale yellow foam.

reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(ethoxycarbonyl)-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine | 2.08 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(=O)OCC | C25H27ClN4O5S2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine-2-carboxylic acid | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(=O)O | C23H23ClN4O5S2
